US06603008B1
1-(4-Bromophenyl)-2-fluoro-1-ethanone (Step 1)
A mixture of 2-bromo-1-(4-bromophenyl)-1-ethanone (8.54 g, 30.7 mmol), potassium fluoride (8.92 g, 153 mmol) and 18-crown-6 ether (4.06 g, 15.3 mmol) in acetonitrile (170 ml) was refluxed for 7 hr. After evaporation, the mixture was dissolved in ethyl acetate (300 ml), washed with water (100 ml×2), and dried over magnesium sulfate. Removal of solvent gave 6.8 g of brown solid, which was chromatographed on a column of silica gel (600 g) eluting with ethyl acetate/hexane (1:10) to afford 5.00 g (75%) of the title compound as a pale yellow solid.

reactant | 2-bromo-1-(4-bromophenyl)-1-ethanone | 30.7 mmol, 8.54 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | potassium fluoride | 153 mmol, 8.92 g | [F-].[K+]
reactant | 18-crown-6 ether | 15.3 mmol, 4.06 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 170 ml | C(C)#N | C2H3N
product | 1-(4-Bromophenyl)-2-fluoro-1-ethanone | 6.8 g | BrC1=CC=C(C=C1)C(CF)=O | C8H6BrFO
